US04255436
2-oxo-4-isopropyl-5,5-dimethyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4-isopropyl-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 89°-91° C. The 2-oxo-4-isopropyl-5,5-dimethyl-3-thiazoline-oxime starting material (m.p. 220°-222° C.) was prepared from 2,4-dimethyl-2-thiocyanato-3-pentanone (b.p. [0.02 mm] 64°-66° C.).

reactant | 2-oxo-4-isopropyl-5,5-dimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C(C)C)(C)C | C8H14N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4-isopropyl-5,5-dimethyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C(C)C)(C)C | C10H17N3O2S
